US07291616B2
A mixture of 5-chlorosalicylic acid (5.0 g, 29.0 mmol), potassium carbonate (10.8 g, 78.1 mmol), acetonitrile (100 ml), and 2-bromoethylmethyl ether (6.8 ml, 72.3 mmol) was heated under reflux for 20 hours. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (50 ml). The solution was washed with aqueous sodium hydroxide solution (1 M, 2×50 ml), washed with water (50 ml), dried over sodium sulfate, and concentrated under reduced pressure to provide 5-chloro-2-(2-methoxyethoxy)benzoic acid 2-methoxyethyl ester (7.83 g, 93% yield).

reactant | 5-chlorosalicylic acid | 29.0 mmol, 5.0 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | potassium carbonate | 78.1 mmol, 10.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethylmethyl ether | 72.3 mmol, 6.8 ml | BrCCOC | C3H7BrO
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-chloro-2-(2-methoxyethoxy)benzoic acid 2-methoxyethyl ester | 7.83 g, 93% yield | COCCOC(C1=C(C=CC(=C1)Cl)OCCOC)=O | C13H17ClO5
